US07419984B2
A mixture of 2,6-dichloro-pyrimidin-4-yl-amine (0.492 g, 3.0 mmol) and 4-chloro-aniline (1.54 g, 12.0 mmol) in dioxane (25 ml) was heated under reflux for 3 hours. After cooled to room temperature, the mixture was filtered. Concentration of the filtrate under reduced pressure provided the crude product which was purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (1:3) to provide 6-chloro-N*2*-(4-chloro-phenyl)-pyrimidine-2,4-diamine (0.32 g, 42% yield) as a white powder.

reactant | 2,6-dichloro-pyrimidin-4-yl-amine | 3.0 mmol, 0.492 g | ClC1=NC(=CC(=N1)N)Cl | C4H3Cl2N3
reactant | 4-chloro-aniline | 12.0 mmol, 1.54 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 6-chloro-N*2*-(4-chloro-phenyl)-pyrimidine-2,4-diamine | 0.32 g, 42% yield | ClC1=CC(=NC(=N1)NC1=CC=C(C=C1)Cl)N | C10H8Cl2N4
